US05281593
iv) 7-Indolecarboxaldehyde
Solid pyridinium dichromate (1.77 g, 5.1 mmol) was added in portions over 3 hours to a stirred solution of 7-indolemethanol (0.5 g, 3.4 mmol) in dichloromethane (50 ml). The mixture was stirred for a further 2 hours then filtered through a pad of Celite filter aid. The filtrate was evaporated and the residue purified by chromatography on silica in ethyl acetate-hexane (1:3).

reactant | pyridinium dichromate | 5.1 mmol, 1.77 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 7-indolemethanol | 3.4 mmol, 0.5 g | N1C=CC2=CC=CC(=C12)CO | C9H9NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-Indolecarboxaldehyde | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
